### PR TITLE
feat: `Option` lemmas

### PR DESCRIPTION
**Pull request by TwoFX**
This PR adds missing `Option` lemmas.

Also:

- generalize `bindM` from `Monad` to `Pure`
- change the `simp` normal form of both `<|>` and `Option.orElse` to `Option.or`

### CODE REVIEW

File: src/Init/Data/Option/Lemmas.lean [hunk 1]
```diff
@@ -818,10 +938,54 @@ theorem getD_or {o o' : Option α} {fallback : α} :
...
+
+/-- The `simp` normal form of `o <|> o'` is `o.or o'` via `orElse_eq_orElse` and `orElse_eq_or`. -/
+@[simp, grind] theorem orElse_eq_orElse : HOrElse.hOrElse = @Option.orElse α := rfl
+
+theorem or_eq_orElse : or o o' = o.orElse (fun _ => o') := by
+  cases o <;> rfl
+
+/-- The `simp` normal form of `o.orElse f` is o.or (f ())`. -/
+@[simp, grind] theorem orElse_eq_or {o : Option α} {f} : o.orElse f = o.or (f ()) := by
+simp [or_eq_orElse]
```
Comment (Rob23oba) [inline src/Init/Data/Option/Lemmas.lean:963]:
```suggestion
  simp [or_eq_orElse]
```

File: src/Init/Data/Option/Lemmas.lean [hunk 2]
```diff
@@ -1101,6 +1340,20 @@ theorem pelim_filter {o : Option α} {b : β} {f : (a : α) → a ∈ o.filter p
...
     | true => by simp [pelim_congr_left (filter_some_pos h), h]
 
+theorem pelim_join {o : Option (Option α)} {b : β} {f : (a : α) → a ∈ o.join → β} :
+    o.join.pelim b f = o.pelim b (fun o' ho' => o'.pelim b (fun a ha => f a (by simp_all))) := by
+  cases o <;> simp <;> congr
+
+@[congr]
+theorem pelim_congr {o o' : Option α} {b : β} {f : (a : α) → o = some a → β} (h : o = o') :
+    o.pelim b f = o'.pelim b (fun a ha => f a (h ▸ ha)) := by
+  cases h; rfl
```
Comment (Rob23oba) [inline src/Init/Data/Option/Lemmas.lean:1350]:
```suggestion
@[congr]
theorem Option.pelim_congr {o o' : Option α} {b b' : β}
    {f : (a : α) → o = some a → β} {g : (a : α) → o' = some a → β}
    (ho : o = o') (hb : b = b') (hf : ∀ a ha, f a (ho.trans ha) = g a ha) :
    o.pelim b f = o'.pelim b' g := by
  cases ho; cases hb; cases o <;> apply_assumption
```
Then I also don't there is much of a reason to `pelim_congr_left` a `congr` lemma anymore.
